US07642374B2
Acetic anhydride serving as a dehydrating agent is used in an amount of 0.01 to 2 parts by weight on the basis of 1 part by weight of 2-methylbenzoic acid serving as a starting material, preferably 0.1 to 1.5 parts by weight. Through controlling the amount of acetic anhydride so as to fall within the above ranges, a sufficient reaction-promoting effect can be attained, whereby conversion of 2-methylbenzoic acid serving as a starting material and that of iodine can be enhanced. Thus, 5-iodo-2-methylbenzoic acid can be produced at low cost without increasing load of separation/recovery during the purification step. Notably, in the case in which iodine, iodic acid, periodic acid, or a similar species is dissolved or suspended in water, and the solution or suspension is placed in a reactor, acetic anhydride must be added in an amount in excess of the above amount in order to remove water forming the solution or suspension.

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | iodine | II | I2
product | 5-iodo-2-methylbenzoic acid | IC=1C=CC(=C(C(=O)O)C1)C | C8H7IO2
